US08466290B2
Tert-butyl carbazate (350 mg, 2.65 mmol), HBTU (1.01 g, 2.66 mmol), and N,N-diisopropylethylamine (923 μL, 5.30 mmol) were added to a methylene chloride (5 mL) solution of commercially available 4,5-dimethylfurancarboxylic acid (248 mg, 1.77 mmol), and the mixture was stirred overnight at room temperature. After the reaction solution was concentrated, to the residue, a saturated aqueous solution of sodium bicarbonate was added, and the mixture was subjected to extraction with methylene chloride and dried over anhydrous sodium sulfate, and then, the solvent was distilled off. The obtained residue was dissolved in methylene chloride (6 mL). To the solution, trifluoroacetic acid (1.5 mL) was added, and the mixture was stirred at room temperature for 1.5 hours. The reaction solution was concentrated to obtain 4,5-dimethylfuran-2-carbohydrazide.

reactant | Tert-butyl carbazate | 2.65 mmol, 350 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | HBTU | 2.66 mmol, 1.01 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 5.30 mmol, 923 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4,5-dimethylfurancarboxylic acid | 1.77 mmol, 248 mg | CC=1C=C(OC1C)C(=O)O | C7H8O3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4,5-dimethylfuran-2-carbohydrazide | CC=1C=C(OC1C)C(=O)NN | C7H10N2O2
